US07816557B2
6-Chloro-5-methyl-pyridin-3-ol
2-Chloro-3-methyl-5-nitro-pyridine (2 g, 11.6 mmol) and SnCl2.(H2O)2 (7.86 g, 34.8 mmol) are refluxed in MeOH overnight. After cooled down, the mixture is diluted with ethyl acetate, washed with water, brine, dried over MgSO4, concentrated and purified by column chromatography to afford 6-chloro-5-methyl-pyridin-3-ylamine (1.7 g). To the solution of 6-chloro-5-methyl-pyridin-3-ylamine (1.7 g, 11.6 mmol) in 1N HCl is added the solution of NaNO2 (960 mg, 13.92 mmol) in water (10 ml) slowly at 0° C. After the addition, the solution is stirred for 20 min and then heated to 90° C. for 30 min. The solution is cooled down, quenched with K2CO3, extracted with ether, dried over MgSO4, and purified by column chromatography to afford the titled compound (560 mg) as a yellow solid.

reactant | 6-chloro-5-methyl-pyridin-3-ylamine | 11.6 mmol, 1.7 g | ClC1=C(C=C(C=N1)N)C | C6H7ClN2
reactant | NaNO2 | 13.92 mmol, 960 mg | N(=O)[O-].[Na+]
solvent | HCl | 1N | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 6-Chloro-5-methyl-pyridin-3-ol | 560 mg | ClC1=C(C=C(C=N1)O)C | C6H6ClNO
